US06884868B1
To a solution of 4-acetyl-1-(4-hydroxyphenyl)piperazine (20 g) and pyridine (11.02 ml) in dichloromethane (60 ml) was added dropwise with stirring trifluoromethanesulfonic acid anhydride (20 ml) at 0° C. The mixture was then stirred for 1 hour at 0° C. and 1 hour at room temperature. The reaction mixture was added to a mixture of 0.5 mol/l hydrochloric acid and dichloromethane. The organic layer was washed with sodium hydrogen carbonate solution and sodium chloride solution. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (30:1 dichloromethane-methanol elution). Diisopropyl ether was added to the residue, and precipitates were filtered, washed with the same solvent, and dried to give trifluoromethanesulfonic acid 4-(4-acetylpiperazin-1-yl)phenyl ester (27.78 g).

reactant | 4-acetyl-1-(4-hydroxyphenyl)piperazine | 20 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C12H16N2O2
reactant | pyridine | 11.02 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 20 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 0.5 mol/l | Cl | ClH
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 4-(4-acetylpiperazin-1-yl)phenyl ester | 27.78 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C13H15F3N2O4S
